US08791272B2
[1-(4-Hydroxymethyl-benzyl)-3,5-dimethyl-1H-pyrazol-4-yl]-acetic acid methyl ester
(3,5-dimethyl-1H-pyrazol-4-yl)-acetic acid methyl ester (3 g, 18 mmol), 4-(chloromethyl)benzyl alcohol (3.59 g, 18 mmol) and K2CO3 (5.18 g, 37 mmol) were refluxed in 10 ml acetonitrile for 3 h. After cooling, the mixture was filtered, and the solvent was removed under reduced pressure. The residue was purified by MPLC (silica gel, CH2Cl2/methanol 9:1).

reactant | (3,5-dimethyl-1H-pyrazol-4-yl)-acetic acid methyl ester | 18 mmol, 3 g | COC(CC=1C(=NNC1C)C)=O | C8H12N2O2
reactant | 4-(chloromethyl)benzyl alcohol | 18 mmol, 3.59 g | ClCC1=CC=C(CO)C=C1 | C8H9ClO
reactant | K2CO3 | 37 mmol, 5.18 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | [1-(4-Hydroxymethyl-benzyl)-3,5-dimethyl-1H-pyrazol-4-yl]-acetic acid methyl ester | COC(CC=1C(=NN(C1C)CC1=CC=C(C=C1)CO)C)=O | C16H20N2O3
